US05831086
6 g of sodium acetate trihydrate are dissolved in 20 ml of water. 40 ml of acetone and 20 g of cefotaxime in free acid form are added to the stirred solution. The mixture is cooled to 0°. A solution is obtained within 2 to 5 minutes. The solution is filtered through a filter bed and subsequently through a sterile filter. The filters are washed with a chilled mixture of 3 ml of water and 15 ml of acetone. The filtrate is seeded with 0.2 g of seed crystals (Claforan®) and warmed to 20°. The mixture is stirred for 60 minutes. The sodium salt of cefotaxime partially crystallises. In order to compete crystallisation, 300 ml of acetone are added dropwise within 3 hours, and stirring is effected for a further 30 minutes at 20°. The sodium salt of cefotaxime is separated off by filtration, washed with acetone and dried overnight in a vacuum drying chamber at 40° and for 1.5 hours in a stream of dry nitrogen gas at 70°. Crystalline sodium cefotaxime substantially in form of needles is obtained.

reactant | sodium acetate trihydrate | 6 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | acetone | 40 ml | CC(=O)C | C3H6O
reactant | cefotaxime | 20 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)/C(=N\OC)/C3=CSC(=N3)N)SC1)C(=O)O | C16H17N5O7S2
solvent | water | 20 ml | O | H2O
product | sodium cefotaxime | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)/C(=N\OC)/C3=CSC(=N3)N)SC1)C(=O)[O-].[Na+] | InChI=1S/C16H17N5O7S2.Na/c1-6(22)28-3-7-4-29-14-10(13(24)21(14)11(7)15(25)26)19-12(23)9(20-27-2)8-5-30-16(17)18-8;/h5,10,14H,3-4H2,1-2H3,(H2,17,18)(H,19,23)(H,25,26);/q;+1/p-1/b20-9-;/t10-,14-;/m1./s1
